US04264773
Method of preparing 2-chloro-thioxanthone which comprises reacting an alkali metal derivative of 4-chloro-thiophenol with 2-chloro-benzonitrile in an organic solvent to form 2-(4'-chloro-phenylthio)-benzonitrile, hydrolyzing said 2-(4'-chloro-phenylthio)-benzonitrile to form 2-(4'l -chloro-phenylthio)-benzoic acid and cyclising said 2-(4'-chloro-phenylthio)-benzoic acid by dehydration to produce 2-cloro-thioxanthone.

reactant | 2-chloro-thioxanthone | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H7ClOS
reactant | 4-chloro-thiophenol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 2-chloro-benzonitrile | ClC1=C(C#N)C=CC=C1 | C7H4ClN
product | 2-(4'-chloro-phenylthio)-benzonitrile | ClC1=CC=C(C=C1)SC1=C(C#N)C=CC=C1 | C13H8ClNS
